US04826845
Preparation of 6-(1-imidazolyl)-3(2H)-pyridazinone
9.93 g (0.055 mole) of 6-(1-imidazolyl)-3-chloropyridazine [prepared according to J. Med. Chem. 24, 59 (1981)] are boiled with 7.7 g (0.0781 mole) of fused potassium acetate in 114 ml of acetic acid under reflux for 10 hours and then evaporated to dryness under reduced pressure. The residue is taken up in 200 ml of chloroform, the precipitate is filtered off, washed 4 times with water, then with ether and diisopropyl ether and dried to give 4.9 g (55% yield) of the aimed product, m. p. 239°-240° C.

reactant | 6-(1-imidazolyl)-3-chloropyridazine | 0.055 mole, 9.93 g | N1(C=NC=C1)C1=CC=C(N=N1)Cl | C7H5ClN4
reactant | acetic acid | 114 ml | C(C)(=O)O | C2H4O2
product | 6-(1-imidazolyl)-3(2H)-pyridazinone | 4.9 g, 55% yield | N1(C=NC=C1)C=1C=CC(NN1)=O | C7H6N4O
